US07067658B2
Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester (0.332 g, 0.74 mmol), prepared substantially as described in Part C of Example 67a, and 2-methoxy-1-methyl-ethylamine HCl (0.263 g, 67 mmol) were treated substantially as described in Part C of Example 67a to produce 0.120 g (54%) of (2-methoxy-1-methyl-ethyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine; MS(AP) m/z 332.1 [(M+H)+, 94].

reactant | Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester | 0.74 mmol, 0.332 g | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C | C14H11F3N2O6S
reactant | 2-methoxy-1-methyl-ethylamine HCl | 67 mmol, 0.263 g | Cl.COCC(C)N
product | (2-methoxy-1-methyl-ethyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine | 0.120 g, 54% | COCC(C)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC)C | C17H21N3O4
